DAC_TEST
*SPICE Netlist generated by Advanced Sim server on 02.04.2019 2:07:47

*Schematic Netlist:
R1 NetR1_1 OUTPUT_SIGNAL 4K
R2 INPUT_SIGNAL NetR2_2 100000K
R3 NetR3_1 NetR1_1 1K
R4 NetR4_1 NetR4_2 1K
R5 0 NetR4_2 4K
R7 OUTPUT_SIGNAL 0 200
XU1 NetR2_2 NetR3_1 VCC VEE NetR3_1 AD711
XU2 NetR4_2 NetR1_1 VCC VEE OUTPUT_SIGNAL AD711
V1 INPUT_SIGNAL 0 DC 0 SIN(1.25 1.25 100K 0 0 0) AC 1 0
V2 NetR4_1 0 +1.25V
V3 VEE 0 -15V
V4 VCC 0 +15V

.SAVE 0 INPUT_SIGNAL NetR1_1 NetR2_2 NetR3_1 NetR4_1 NetR4_2 OUTPUT_SIGNAL VCC
.SAVE VEE V1#branch V2#branch V3#branch V4#branch @V1[z] @V2[z] @V3[z] @V4[z] @R1[i]
.SAVE @R2[i] @R3[i] @R4[i] @R5[i] @R7[i] @R1[p] @R2[p] @R3[p] @R4[p] @R5[p] @R7[p]
.SAVE @V1[p] @V2[p] @V3[p] @V4[p]

*PLOT TRAN -1 1 A=INPUT_SIGNAL A=OUTPUT_SIGNAL
*PLOT OP -1 1 A=INPUT_SIGNAL A=OUTPUT_SIGNAL

*Selected Circuit Analyses:
.TRAN 2E-7 5E-5 0 2E-7
.OP

*Models and Subcircuits:
.SUBCKT AD711 13 15 12 16 14
VOS 15 8 DC 0.1E-3
EC 9 0 (14,0) 1
C1 6 7 .5E-12
RP 16 12 12E3
GB 11 0 (3,0) 1.67E3
RD1 6 16 16E3
RD2 7 16 16E3
ISS 12 1 DC 100E-6
CCI 3 11 150E-12
GCM 0 3 (0,1) 1.76E-9
GA 3 0 (7,6) 2.3E-3
RE 1 0 2.5E6
RGM 3 0 1.69E3
VC 12 2 DC 2.8
VE 10 16 DC 2.8
RO1 11 14 25
CE 1 0 2E-12
RO2 0 11 30
RS1 1 4 5.77E3
RS2 1 5 5.77E3
J1 6 13 4 FET
J2 7 8 5 FET
DC 14 2 DIODE
DE 10 14 DIODE
DP 16 12 DIODE
D1 9 11 DIODE
D2 11 9 DIODE
IOS 15 13 5E-12
.MODEL DIODE D()
.MODEL FET PJF(VTO=-1 BETA=1E-3 IS=15E-12)
.ENDS AD711

.END
